* NGSPICE file created from mult4_SarsaNStepsRuido_e9_SARSA_RUIDO_e9_SarsaNStepsRuido_e9_SARSA_RUIDO_e9.ext - technology: sky130A

* Black-box entry subcircuit for sky130_fd_sc_hd__fill_2 abstract view
.subckt sky130_fd_sc_hd__fill_2 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__nand2_1 abstract view
.subckt sky130_fd_sc_hd__nand2_1 A B VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_ef_sc_hd__decap_12 abstract view
.subckt sky130_ef_sc_hd__decap_12 VPWR VGND VPB VNB
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_8 abstract view
.subckt sky130_fd_sc_hd__decap_8 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__fill_1 abstract view
.subckt sky130_fd_sc_hd__fill_1 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_3 abstract view
.subckt sky130_fd_sc_hd__decap_3 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__or2_1 abstract view
.subckt sky130_fd_sc_hd__or2_1 A B VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__buf_2 abstract view
.subckt sky130_fd_sc_hd__buf_2 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__o211a_1 abstract view
.subckt sky130_fd_sc_hd__o211a_1 A1 A2 B1 C1 VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__nor2_1 abstract view
.subckt sky130_fd_sc_hd__nor2_1 A B VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_4 abstract view
.subckt sky130_fd_sc_hd__decap_4 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__and2_1 abstract view
.subckt sky130_fd_sc_hd__and2_1 A B VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__tapvpwrvgnd_1 abstract view
.subckt sky130_fd_sc_hd__tapvpwrvgnd_1 VGND VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_6 abstract view
.subckt sky130_fd_sc_hd__decap_6 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__a211o_1 abstract view
.subckt sky130_fd_sc_hd__a211o_1 A1 A2 B1 C1 VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__nand3_1 abstract view
.subckt sky130_fd_sc_hd__nand3_1 A B C VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__and3_1 abstract view
.subckt sky130_fd_sc_hd__and3_1 A B C VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__xnor2_1 abstract view
.subckt sky130_fd_sc_hd__xnor2_1 A B VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__and4_1 abstract view
.subckt sky130_fd_sc_hd__and4_1 A B C D VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__nand3b_1 abstract view
.subckt sky130_fd_sc_hd__nand3b_1 A_N B C VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__dlymetal6s2s_1 abstract view
.subckt sky130_fd_sc_hd__dlymetal6s2s_1 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__a21o_1 abstract view
.subckt sky130_fd_sc_hd__a21o_1 A1 A2 B1 VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__clkbuf_2 abstract view
.subckt sky130_fd_sc_hd__clkbuf_2 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__a31oi_1 abstract view
.subckt sky130_fd_sc_hd__a31oi_1 A1 A2 A3 B1 VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__xor2_1 abstract view
.subckt sky130_fd_sc_hd__xor2_1 A B VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__buf_1 abstract view
.subckt sky130_fd_sc_hd__buf_1 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__or4b_1 abstract view
.subckt sky130_fd_sc_hd__or4b_1 A B C D_N VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__inv_2 abstract view
.subckt sky130_fd_sc_hd__inv_2 A VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__mux2_1 abstract view
.subckt sky130_fd_sc_hd__mux2_1 A0 A1 S VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__o21a_1 abstract view
.subckt sky130_fd_sc_hd__o21a_1 A1 A2 B1 VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__o21ai_1 abstract view
.subckt sky130_fd_sc_hd__o21ai_1 A1 A2 B1 VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__a21oi_1 abstract view
.subckt sky130_fd_sc_hd__a21oi_1 A1 A2 B1 VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__conb_1 abstract view
.subckt sky130_fd_sc_hd__conb_1 VGND VNB VPB VPWR HI LO
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__and2b_1 abstract view
.subckt sky130_fd_sc_hd__and2b_1 A_N B VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__o21bai_1 abstract view
.subckt sky130_fd_sc_hd__o21bai_1 A1 A2 B1_N VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__a21bo_1 abstract view
.subckt sky130_fd_sc_hd__a21bo_1 A1 A2 B1_N VGND VNB VPB VPWR X
.ends

.subckt mult4_SarsaNStepsRuido_e9_SARSA_RUIDO_e9_SarsaNStepsRuido_e9_SARSA_RUIDO_e9
+ A[0] A[1] A[2] A[3] B[0] B[1] B[2] B[3] P[0] P[1] P[2] P[3] P[4] P[5] P[6] P[7]
+ VGND VPWR
XFILLER_7_7 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
X_062_ net2 net6 VGND VGND VPWR VPWR _008_ sky130_fd_sc_hd__nand2_1
XFILLER_0_57 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_6_23 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_3_46 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_3_57 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XPHY_EDGE_ROW_4_Left_14 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_061_ _003_ _005_ VGND VGND VPWR VPWR _007_ sky130_fd_sc_hd__or2_1
XFILLER_0_69 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
Xoutput10 net10 VGND VGND VPWR VPWR P[2] sky130_fd_sc_hd__buf_2
XPHY_EDGE_ROW_6_Right_6 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_9_57 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
X_060_ net5 net6 _005_ _006_ VGND VGND VPWR VPWR net9 sky130_fd_sc_hd__o211a_1
XFILLER_0_26 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
X_112_ _035_ _052_ VGND VGND VPWR VPWR net11 sky130_fd_sc_hd__nor2_1
XFILLER_6_36 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
Xoutput11 net11 VGND VGND VPWR VPWR P[3] sky130_fd_sc_hd__buf_2
Xoutput9 net9 VGND VGND VPWR VPWR P[1] sky130_fd_sc_hd__buf_2
XFILLER_4_80 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_9_69 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_9_14 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
X_111_ _012_ _034_ VGND VGND VPWR VPWR _052_ sky130_fd_sc_hd__and2_1
XTAP_TAPCELL_ROW_5_26 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_0_49 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
Xoutput12 net12 VGND VGND VPWR VPWR P[4] sky130_fd_sc_hd__buf_2
XFILLER_3_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_9_26 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XPHY_EDGE_ROW_8_Left_18 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_110_ _047_ _048_ _051_ _037_ VGND VGND VPWR VPWR net15 sky130_fd_sc_hd__a211o_1
Xoutput13 net13 VGND VGND VPWR VPWR P[5] sky130_fd_sc_hd__buf_2
XFILLER_0_18 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_1_72 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
Xoutput14 net14 VGND VGND VPWR VPWR P[6] sky130_fd_sc_hd__buf_2
X_099_ _019_ _021_ _041_ VGND VGND VPWR VPWR _043_ sky130_fd_sc_hd__nand3_1
Xoutput15 net15 VGND VGND VPWR VPWR P[7] sky130_fd_sc_hd__buf_2
XPHY_EDGE_ROW_1_Right_1 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XTAP_TAPCELL_ROW_8_29 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_9_29 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
X_098_ _019_ _021_ _041_ VGND VGND VPWR VPWR _042_ sky130_fd_sc_hd__and3_1
XFILLER_7_40 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_4_74 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
X_097_ _038_ _040_ VGND VGND VPWR VPWR _041_ sky130_fd_sc_hd__xnor2_1
XTAP_TAPCELL_ROW_0_20 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_7_52 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XTAP_TAPCELL_ROW_9_30 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_0_21 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
X_096_ _016_ _024_ VGND VGND VPWR VPWR _040_ sky130_fd_sc_hd__xnor2_1
XFILLER_1_54 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_1_76 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XPHY_EDGE_ROW_3_Left_13 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_5_Right_5 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_079_ net1 net2 net7 net8 VGND VGND VPWR VPWR _024_ sky130_fd_sc_hd__and4_1
XTAP_TAPCELL_ROW_9_31 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
X_095_ _016_ _024_ VGND VGND VPWR VPWR _039_ sky130_fd_sc_hd__nand2_1
X_078_ net8 net7 net2 VGND VGND VPWR VPWR _023_ sky130_fd_sc_hd__nand3b_1
XFILLER_4_33 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
X_094_ _004_ net3 _036_ _037_ VGND VGND VPWR VPWR _038_ sky130_fd_sc_hd__a211o_1
X_077_ _013_ _020_ VGND VGND VPWR VPWR _022_ sky130_fd_sc_hd__xnor2_1
X_093_ net7 net8 net4 net3 VGND VGND VPWR VPWR _037_ sky130_fd_sc_hd__and4_1
XPHY_EDGE_ROW_7_Left_17 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_1_24 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_1_57 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
X_076_ _013_ _020_ VGND VGND VPWR VPWR _021_ sky130_fd_sc_hd__or2_1
Xinput1 A[0] VGND VGND VPWR VPWR net1 sky130_fd_sc_hd__dlymetal6s2s_1
XPHY_EDGE_ROW_9_Right_9 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_059_ net5 net2 net1 VGND VGND VPWR VPWR _006_ sky130_fd_sc_hd__a21o_1
XTAP_TAPCELL_ROW_3_24 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_4_13 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
Xinput2 A[1] VGND VGND VPWR VPWR net2 sky130_fd_sc_hd__clkbuf_2
X_092_ net7 _004_ net4 net3 VGND VGND VPWR VPWR _036_ sky130_fd_sc_hd__a31oi_1
XFILLER_7_57 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_7_35 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
X_058_ net1 net5 net2 VGND VGND VPWR VPWR _005_ sky130_fd_sc_hd__nand3_1
X_075_ _014_ _018_ VGND VGND VPWR VPWR _020_ sky130_fd_sc_hd__xor2_1
XFILLER_4_25 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_091_ _033_ _035_ VGND VGND VPWR VPWR net12 sky130_fd_sc_hd__xor2_1
Xinput3 A[2] VGND VGND VPWR VPWR net3 sky130_fd_sc_hd__buf_1
X_074_ _002_ _004_ _018_ _010_ VGND VGND VPWR VPWR _019_ sky130_fd_sc_hd__or4b_1
XFILLER_7_69 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_7_25 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XPHY_EDGE_ROW_0_Right_0 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_2_80 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
X_057_ net8 VGND VGND VPWR VPWR _004_ sky130_fd_sc_hd__inv_2
X_109_ _049_ _050_ VGND VGND VPWR VPWR net14 sky130_fd_sc_hd__xor2_1
XFILLER_4_48 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XFILLER_4_59 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
X_090_ _012_ _034_ VGND VGND VPWR VPWR _035_ sky130_fd_sc_hd__nor2_1
XFILLER_6_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
Xinput4 A[3] VGND VGND VPWR VPWR net4 sky130_fd_sc_hd__dlymetal6s2s_1
X_073_ _017_ net6 _015_ VGND VGND VPWR VPWR _018_ sky130_fd_sc_hd__mux2_1
X_056_ net6 VGND VGND VPWR VPWR _003_ sky130_fd_sc_hd__inv_2
XFILLER_8_80 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
X_108_ _032_ _044_ _049_ _043_ VGND VGND VPWR VPWR _051_ sky130_fd_sc_hd__o211a_1
Xinput5 B[0] VGND VGND VPWR VPWR net5 sky130_fd_sc_hd__clkbuf_2
X_072_ net6 net4 VGND VGND VPWR VPWR _017_ sky130_fd_sc_hd__nand2_1
XTAP_TAPCELL_ROW_6_27 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
X_055_ net2 VGND VGND VPWR VPWR _002_ sky130_fd_sc_hd__inv_2
X_107_ _032_ _044_ _043_ VGND VGND VPWR VPWR _050_ sky130_fd_sc_hd__o21a_1
XFILLER_4_17 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_4_39 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
Xinput6 B[1] VGND VGND VPWR VPWR net6 sky130_fd_sc_hd__clkbuf_2
XPHY_EDGE_ROW_2_Left_12 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_2_72 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
X_071_ net6 _015_ VGND VGND VPWR VPWR _016_ sky130_fd_sc_hd__and2_1
X_054_ net5 VGND VGND VPWR VPWR _001_ sky130_fd_sc_hd__inv_2
X_106_ _047_ _048_ VGND VGND VPWR VPWR _049_ sky130_fd_sc_hd__xor2_1
XPHY_EDGE_ROW_4_Right_4 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_4_29 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
X_070_ net5 net4 net3 VGND VGND VPWR VPWR _015_ sky130_fd_sc_hd__and3_1
Xinput7 B[2] VGND VGND VPWR VPWR net7 sky130_fd_sc_hd__buf_1
X_053_ net1 VGND VGND VPWR VPWR _000_ sky130_fd_sc_hd__inv_2
XFILLER_8_72 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
X_105_ _038_ _040_ _039_ VGND VGND VPWR VPWR _048_ sky130_fd_sc_hd__o21ai_1
Xinput8 B[3] VGND VGND VPWR VPWR net8 sky130_fd_sc_hd__dlymetal6s2s_1
XFILLER_2_63 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
X_104_ net8 net4 _013_ VGND VGND VPWR VPWR _047_ sky130_fd_sc_hd__and3_1
XFILLER_8_62 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_6_Left_16 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_103_ _045_ _046_ VGND VGND VPWR VPWR net13 sky130_fd_sc_hd__xnor2_1
XPHY_EDGE_ROW_8_Right_8 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_102_ _033_ _035_ _032_ VGND VGND VPWR VPWR _046_ sky130_fd_sc_hd__a21oi_1
XTAP_TAPCELL_ROW_1_22 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
Xmult4_SarsaNStepsRuido_e9_SARSA_RUIDO_e9_SarsaNStepsRuido_e9_SARSA_RUIDO_e9_16 VGND
+ VGND VPWR VPWR mult4_SarsaNStepsRuido_e9_SARSA_RUIDO_e9_SarsaNStepsRuido_e9_SARSA_RUIDO_e9_16/HI
+ P[0] sky130_fd_sc_hd__conb_1
XFILLER_8_54 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
X_101_ _042_ _044_ VGND VGND VPWR VPWR _045_ sky130_fd_sc_hd__nor2_1
XFILLER_5_77 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_2_45 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
X_100_ _019_ _021_ _041_ VGND VGND VPWR VPWR _044_ sky130_fd_sc_hd__a21oi_1
XFILLER_8_11 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_2_57 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XFILLER_5_57 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_5_46 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_5_13 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XPHY_EDGE_ROW_1_Left_11 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_089_ _029_ _030_ VGND VGND VPWR VPWR _034_ sky130_fd_sc_hd__xnor2_1
XTAP_TAPCELL_ROW_4_25 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_5_69 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XPHY_EDGE_ROW_3_Right_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_2_37 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_088_ _022_ _031_ VGND VGND VPWR VPWR _033_ sky130_fd_sc_hd__xnor2_1
XFILLER_2_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_8_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
X_087_ _022_ _031_ VGND VGND VPWR VPWR _032_ sky130_fd_sc_hd__and2b_1
XFILLER_0_6 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_5_38 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_8_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
X_086_ _029_ _030_ _027_ VGND VGND VPWR VPWR _031_ sky130_fd_sc_hd__o21bai_1
XPHY_EDGE_ROW_5_Left_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_069_ net2 net8 _010_ VGND VGND VPWR VPWR _014_ sky130_fd_sc_hd__and3_1
XPHY_EDGE_ROW_7_Right_7 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XTAP_TAPCELL_ROW_7_28 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_2_29 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
X_085_ _007_ _026_ VGND VGND VPWR VPWR _030_ sky130_fd_sc_hd__xnor2_1
X_068_ net7 net3 VGND VGND VPWR VPWR _013_ sky130_fd_sc_hd__nand2_1
XFILLER_5_29 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_6_50 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XFILLER_2_19 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
X_067_ _011_ _012_ VGND VGND VPWR VPWR net10 sky130_fd_sc_hd__and2_1
X_084_ _001_ _003_ _015_ _028_ VGND VGND VPWR VPWR _029_ sky130_fd_sc_hd__a211o_1
XFILLER_0_41 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_6_73 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XPHY_EDGE_ROW_9_Left_19 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_083_ net5 net4 net3 VGND VGND VPWR VPWR _028_ sky130_fd_sc_hd__a21oi_1
XFILLER_9_73 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
X_066_ _009_ _010_ VGND VGND VPWR VPWR _012_ sky130_fd_sc_hd__or2_1
X_082_ _007_ _026_ VGND VGND VPWR VPWR _027_ sky130_fd_sc_hd__nor2_1
X_065_ _009_ _010_ VGND VGND VPWR VPWR _011_ sky130_fd_sc_hd__nand2_1
XFILLER_9_41 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XPHY_EDGE_ROW_0_Left_10 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_3_10 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
X_081_ _000_ _023_ _024_ _025_ VGND VGND VPWR VPWR _026_ sky130_fd_sc_hd__a211o_1
XFILLER_3_54 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_0_55 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
X_064_ net1 net7 VGND VGND VPWR VPWR _010_ sky130_fd_sc_hd__nand2_1
XPHY_EDGE_ROW_2_Right_2 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_3_77 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
X_063_ _005_ _008_ _007_ VGND VGND VPWR VPWR _009_ sky130_fd_sc_hd__a21bo_1
X_080_ net8 net1 VGND VGND VPWR VPWR _025_ sky130_fd_sc_hd__and2b_1
XFILLER_0_34 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XTAP_TAPCELL_ROW_2_23 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
.ends

